US06753342B2
A solution of indole (1.0 g) in dry DMSO (1 ml) is dropped into a suspension of sodium hydride (60% mineral oil suspension; 0.37 g) in dry DMSO (20 ml). The mixture is heated at 60° C. for 1 h. After cooling to room temperature, the resulting solution is added dropwise with a solution of n-octyl bromide (2.82 ml) in dry DMSO (2.8 ml). After a night at room temperature, the reaction mixture is poured into water (200 ml) and extracted with ethyl acetate (2×50 ml). The combined organic phases are washed with a NaCl saturated solution, dried and evaporated to dryness. The resulting residue is purified by column chromatography (silica gel; eluent n-hexane), to obtain 1.86 g of 1-(n-octyl)indole as oil. The compound is characterized through its 1H-NMR spectrum.

reactant | indole | 1.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 0.37 g | [H-].[Na+]
reactant | n-octyl bromide | 2.82 ml | C(CCCCCCC)Br | C8H17Br
reactant | water | 200 ml | O | H2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2.8 ml | CS(=O)C | C2H6OS
product | 1-(n-octyl)indole | 1.86 g | C(CCCCCCC)N1C=CC2=CC=CC=C12 | C16H23N
